US06528525B1
Ethyl 2-butyl-3-[4-[2-(4′-methoxycarbonylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionate
In a similar manner to that described in Example 5, a reaction was carried out using ethyl 3-[4-(2-aminoethoxy)phenyl]-2-butylpropionate (375 mg), which is the product of Reference example 6, 4′-methoxycarbonylbiphenyl-4-carboxylic acid (328 mg) and carbonyldiimidazole (225 mg) and the reaction mixture was treated to afford the title compound (257 mg) as colorless crystals.

reactant | ethyl 3-[4-(2-aminoethoxy)phenyl]-2-butylpropionate | 375 mg | NCCOC1=CC=C(C=C1)CC(C(=O)OCC)CCCC | C17H27NO3
reactant | 4′-methoxycarbonylbiphenyl-4-carboxylic acid | 328 mg | COC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C15H12O4
reactant | carbonyldiimidazole | 225 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
product | Ethyl 2-butyl-3-[4-[2-(4′-methoxycarbonylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionate | 257 mg | C(CCC)C(C(=O)OCC)CC1=CC=C(C=C1)OCCNC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC | C32H37NO6
